US07199239B2
Intermediate 51: 2-Bromo-6-[4-(trifluoromethyl)phenyl]pyrazine
To a flask containing 2-chloro-6-[4-(trifluoromethyl)phenyl]pyrazine (0.8 g, 3.1 mmol), was added phosphorus tribromide (20 mL) and the mixture heated at reflux for 6 h under nitrogen. The reaction mixture was cooled to room temperature prior to pouring carefully into iced water (400 mL), the resulting mixture was adjusted to pH 6–7 using aqueous ammonia and extracted with diethylether (3×250 mL). The organic solution was dried (MgSO4) and the solvent removed in vacuo to afford the title compound as a pale yellow crystalline solid (0.97 g).

reactant | 2-chloro-6-[4-(trifluoromethyl)phenyl]pyrazine | 3.1 mmol, 0.8 g | ClC1=NC(=CN=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | phosphorus tribromide | 20 mL | P(Br)(Br)Br | Br3P
reactant | ammonia | N | H3N
solvent | water | 400 mL | O | H2O
product | 2-Bromo-6-[4-(trifluoromethyl)phenyl]pyrazine | 0.97 g | BrC1=NC(=CN=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6BrF3N2
